US07741327B2
In a flask under argon was placed (S)-2-benzyloxycarbonylamino-4-oxo-hexanedioic acid 6-t-butyl ester 1-methyl ester (3.04 g, 8.01 mmol), toluene (80 mL) and para-toluene sulfonic acid hydrate (115 mg, 0.61 mmol) and refluxed for 6.5 h and then overnight for 16 h at room temperature. The mixture was concentrated in vacuo and purified by flash column chromatography (silica gel 60, 230-400 mesh; 50% ethyl acetate/hexanes) which afforded (S)-2-benzyloxycarbonylamino-4-oxo-pentanoic acid methyl ester (1.79 g, 80%) as a pale yellow viscous oil.

reactant | (S)-2-benzyloxycarbonylamino-4-oxo-hexanedioic acid 6-t-butyl ester 1-methyl ester | 8.01 mmol, 3.04 g | COC([C@H](CC(CC(=O)OC(C)(C)C)=O)NC(=O)OCC1=CC=CC=C1)=O | C19H25NO7
reactant | para-toluene sulfonic acid hydrate | 0.61 mmol, 115 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-benzyloxycarbonylamino-4-oxo-pentanoic acid methyl ester | 1.79 g, 80% | COC([C@H](CC(C)=O)NC(=O)OCC1=CC=CC=C1)=O | C14H17NO5
